US08471005B2
4-(4-Nitro-phenyl)-piperidine-4-carbonitrile (0.795 g, 3.44 mmol) and MP-Carbonate resin (3.16 mmol/g loading; 2.18 g, 6.88 mmol) were combined in Acetonitrile (24.0 mL) and Iodoacetamide (0.720 g, 3.70 mmol) was then added and then stirred overnight. After 24 h, conversion was not complete, so additional MP-Carbonate resin (1.21 g, 3.82 mmol), Iodoacetamide (0.405 g, 2.08 mmol) and Acetonitrile (30.0 mL, 574 mmol) were added. After 8 h, the reaction was complete. Solubilize the precipitated product with DCM:MeOH, filter off resin and wash with DCM:MeOH. Conc. onto 10 g silica gel. ISCO (40 g, 0-20% MeOH:EtOAc) to afford 2-[4-Cyano-4-(4-nitro-phenyl)-piperidin-1-yl]-acetamide (1.09 g; Yield=100) as a white solid. 1H-NMR (DMSO-d6): 8.31 (d, 2H, J=8.7 Hz), 7.87 (d, 2H, J=8.7 Hz), 7.35 (br s, 1H), 7.18 (br s, 1H), 2.97 (m, 4H), 2.50 (m, 2H), 2.22 (m, 2H), 2.13 (m, 2H).

reactant | 4-(4-Nitro-phenyl)-piperidine-4-carbonitrile | 3.44 mmol, 0.795 g | [N+](=O)([O-])C1=CC=C(C=C1)C1(CCNCC1)C#N | C12H13N3O2
reactant | MP-Carbonate resin | 6.88 mmol, 2.18 g | CC[NH+](CC)CC.CC[NH+](CC)CC.C(=O)([O-])[O-]
reactant | Iodoacetamide | 3.70 mmol, 0.720 g | ICC(=O)N | C2H4INO
reactant | MP-Carbonate resin | 3.82 mmol, 1.21 g | CC[NH+](CC)CC.CC[NH+](CC)CC.C(=O)([O-])[O-]
reactant | Iodoacetamide | 2.08 mmol, 0.405 g | ICC(=O)N | C2H4INO
solvent | Acetonitrile | 24.0 mL | C(C)#N | C2H3N
solvent | Acetonitrile | 574 mmol, 30.0 mL | C(C)#N | C2H3N
product | 2-[4-Cyano-4-(4-nitro-phenyl)-piperidin-1-yl]-acetamide | 1.09 g | C(#N)C1(CCN(CC1)CC(=O)N)C1=CC=C(C=C1)[N+](=O)[O-] | C14H16N4O3
